US06110929
N-(2-ethylthiazolo[4,5-c]quinolin-4-yl)trichloroacetamide (0.40 g) was suspended in a solution of ammonia in methanol (20 mL of 2M) and then stirred at ambient temperature for 30 minutes. The reaction mixture was concentrated under vacuum. The residue was washed with water and then dried to provide 0.19 g of crude product which was recrystallized from ethyl acetate/hexane to provide 2-ethylthiazolo[4,5-c]quinolin-4-amine as tan needles, m.p. 170-172° C. Analysis: Calculated for C12H11N3S: % C, 62.85; % H, 4.83; % N, 18.32; Found: % C, 62.58; % H, 4.78; % N, 18.08.

reactant | N-(2-ethylthiazolo[4,5-c]quinolin-4-yl)trichloroacetamide | 0.40 g | C(C)C=1SC2=C(C(=NC=3C=CC=CC23)NC(C(Cl)(Cl)Cl)=O)N1 | C14H10Cl3N3OS
reactant | ammonia | N | H3N
solvent | methanol | 2M, 20 mL | CO | CH4O
product | 2-ethylthiazolo[4,5-c]quinolin-4-amine | C(C)C=1SC2=C(C(=NC=3C=CC=CC23)N)N1 | C12H11N3S
